Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical history 
of MS, borderline ovarian tumor s/p resection who presents with 
weakness and leukocytosis. She initially presented to ___ with 
inability to move BUE and fevers. Pt states that she has been 
feeling fatigued over the past 1 month. She always has some 
fatigue due to MS, but has been worse than usual. On ___, she 
had sudden onset, over the course of ___ mins, weakness in all 
extremities, but worse in UEs. No radicular pain or 
parasthesias. At the same time, she also had a fever and 
therefore presented to OSH ED. At ___ ED, was found to have 
fever to 101.2. Workup showed WBC 21, ESR 44. OSH CXR and UA was 
negative (no WBC or bacteria checked) and she underwent a CTA 
head, CT chest for further evaluation which was unrevealing. Flu 
swab was neg. She was given 2g IV CTX for lyme coverage at ___. 
She was transferred to ___ for further evaluation.

On arrival to ___ ED, vitals 
98.4 70 106/51 18 96% RA. She remained afebrile during ED 
course. She noted improvement in her weakness and denied URI 
symptoms, cough, odynophagia, chest pain, dyspnea, back pain, 
abdominal pain, F/C/N/V/D, UTI symptoms. She has been taking her 
medication regularly as prescribed. On exam, she had a foley in 
place (placed at OSH as unable to transfer to bathroom), with 
baseline strength exam. She also was noted to have erythematous 
blanching rash over dorsum of foot to ankle; mildly warm but no 
TTP. Labs showed WBC 20.4, normal chem panel, and UA with 8 WBC, 
few bacteria, sm leuk. In the ED, she received atenolol 25, MVI, 
ascorbic acid, modafinil 100mg, doxycycline 100mg, dalampridine, 
vit D. 
 
On arrival to the floor, pt states that her strength is back at 
baseline. She reported the above history. She added that she has 
no vision change, SOB, CP, abdominal pain, n/v, diarrhea, new 
rash (states rash on heel/ankle is stable/chronic), or urinary 
symptoms. She denies recent rash, myalgias, neck stiffness, 
arthralgias, headache. She states that she has had chronic UTIs 
due to incomplete bladder emptying from MS, but this has 
resolved with once daily macrobid which she is currently on. She 
currently has no changes in urinary symptoms. 

She also notes that she has been undergoing treatment for lyme 
disease with doxycycline, dx by PCP based on blood work. She 
started taking this on ___.

ROS: Pertinent positives and negatives as noted in the HPI.  
Otherwise a 10-point ROS was reviewed and is negative.

 
Past Medical History:
PMH: MS, HTN, UTI
PSH: none
Gyn: no abnl pap, no STI
OB: SVD x2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Temp: 98.6 PO BP: 113/66 HR: 74 RR: 18 O2 sat: 99% O2 delivery: 
RA 
GENERAL: Alert and in no apparent distress sitting up wheelchair
EYES: Anicteric, EOMI
ENT: MMM  
CV: Heart regular, no murmur, no JVD
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  
SKIN: No rashes
NEURO: Alert, oriented, conversant. 4+/5 ankle plantar flexion 
bilaterally, ___ doriflexion on left. ___ right
PSYCH: calm, cooperative, normal affect 
 
Pertinent Results:
ADMISSION LABS:
================

___ 06:17AM BLOOD WBC-20.4* RBC-4.29 Hgb-11.9 Hct-36.7 
MCV-86 MCH-27.7 MCHC-32.4 RDW-14.0 RDWSD-43.2 Plt ___
___ 06:17AM BLOOD Neuts-82.6* Lymphs-8.1* Monos-7.7 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-16.84* AbsLymp-1.65 
AbsMono-1.56* AbsEos-0.17 AbsBaso-0.06
___ 06:17AM BLOOD Glucose-92 UreaN-15 Creat-0.5 Na-141 
K-4.2 Cl-105 HCO3-25 AnGap-11
___ 06:17AM BLOOD ALT-14 AST-21 AlkPhos-82 TotBili-0.3
___ 06:17AM BLOOD Lipase-35
___ 06:17AM BLOOD Albumin-3.5 Calcium-8.4 Phos-2.9 Mg-2.0
.
.
NOTABLE LABS WHILE INPATIENT:
================

___ 07:35AM BLOOD ___
___ 07:10AM BLOOD ALT-15 AST-18 LD(LDH)-173 CK(CPK)-107 
AlkPhos-80 TotBili-0.2
___ 07:35AM BLOOD TSH-4.1
___ 07:35AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
.
.
MICRO:
===============
___ 6:17 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
.
.
IMAGING:
===============
Final Report
EXAMINATION:  ___ CLINIC BRAIN AND ___ PROTOCOL WANDW/O 
CONTRAST
 
INDICATION:  ___ year old woman with primary progressive multiple 
sclerosis
presenting with acute weakness.  Assess for new lesion 
suggestive of true
relapse multiple sclerosis.
 
TECHNIQUE:  BRAIN:
Sagittal 3D FLAIR imaging was performed along with axial T1 
weighted, T2
weighted, FLAIR, gradient echo, and diffusion imaging. The 3D 
FLAIR images
were re-formatted in axial and coronal orientations. Axial 
MPRAGE and axial T1
weighted imaging were performed after administration of 7 mL of 
Gadavist
intravenous contrast, and MP RAGE images were re-formatted in 
sagittal and
coronal orientations.
 
CERVICAL SPINE:
Sagittal T1 weighted, T2 weighted, and IDEAL images were 
performed with axial
gradient echo and T2 weighted images.  Following intravenous 
gadolinium
administration, sagittal and axial T1 weighted images were 
obtained.
 
COMPARISON:  ___ noncontrast head CT from an outside 
facility
___ brain MRI from an outside facility
 
FINDINGS: 
 
BRAIN:
 
There are innumerable foci of high T2 signal in the subcortical, 
deep, and
periventricular white matter of the cerebral hemispheres, 
including confluent
callosal and radiating pericallosal lesions, consistent with the 
known
multiple sclerosis.  Differences in patient head position, as 
well as
differences between MR scanners and sequence parameters, are the 
likely cause
for overall increased signal intensity of the lesions on the 3D  
FLAIR
sequence of the present study compared to the ___ study.  
However, the
distribution and extent of the lesions does not appear 
significantly changed. 
A right posterior frontal subcortical lesion on images 6:128 and 
600:446 is
not definitively identified on the prior study.  No other 
definite new
supratentorial lesion is seen.  Many of the lesions demonstrate 
low signal
intensity on T1 weighted images, consistent with black holes.
 
The T2 hyperintense lesion between the right middle cerebellar 
and right
cerebellar hemisphere on images 600:364, 6:109 is stable.  
Bilateral T2
hyperintensity in the central midbrain appears new.
 
Postcontrast images are slightly limited by motion artifact.  No 
evidence for
contrast enhancing lesions or lesions with slow diffusion.  
There are T2 shine
through associated with a chronic right frontal subcortical 
lesion on image
550:22.
 
Thinning of the corpus callosum is unchanged.  Ventricles and 
sulci are stable
in size.
 
No evidence for an enhancing mass, acute infarction, or 
intracranial blood
products.  Major arterial flow voids are preserved.  Dural 
venous sinuses
appear patent.
 
There is mild mucosal thickening in the ethmoid air cells.
 
CERVICAL SPINE:
Motion artifact on both sagittal and axial T2 weighted images 
limits
evaluation of spinal cord signal.  No focal demyelinating lesion 
separate from
artifact is definitively identified.  No evidence for pathologic 
intrathecal
contrast enhancement.
 
Vertebral body heights are preserved.  Minimal retrolisthesis of 
C5 on C6. 
Minimal anterolisthesis of T1 and T 2.  No evidence for 
suspicious bone marrow
signal abnormalities.
 
C2-C3: No spinal canal or neural foraminal narrowing.
 
C3-C4: No spinal canal narrowing.  Moderate right and mild left 
neural
foraminal narrowing by uncovertebral and facet osteophytes.
 
C4-C5: No spinal canal narrowing.  No significant neural 
foraminal narrowing.
 
C5-C6: Mild retrolisthesis, broad-based right paracentral disc 
protrusion with
overlying endplate osteophytes, and infolding of the ligamentum 
flavum, cause
mild narrowing of the spinal canal, right more than left, 
without spinal cord
contact.  Severe right and moderate to severe left neural 
foraminal narrowing
by uncovertebral and facet osteophytes.
 
C6-C7: Broad-based left paracentral disc protrusion with 
overlying endplate
osteophytes, and infolding of the ligamentum flavum, cause mild 
narrowing of
the spinal canal, left more than right, without spinal cord 
contact.  Mild
right and severe left neural foraminal narrowing by 
uncovertebral and facet
osteophytes.
 
C7-T1: No spinal canal narrowing.  Moderate left neural 
foraminal narrowing by
uncovertebral and facet osteophytes.
 
There are multiple bilateral nodules in the partially visualized 
thyroid
gland, up to 1.4 cm on the left on sagittal images ___.
 
There is intraglandular ductal dilatation in the left 
submandibular gland, as
well as dilatation of the partially visualized extra glandular 
left
submandibular duct, series 16, images ___.
 
IMPRESSION:
 
 
1. Extensive supratentorial demyelinating disease.  A right 
posterior frontal
subcortical lesion appears new.  Otherwise, no significant 
change in the
supratentorial compartment compared to ___, allowing for 
differences in
technique and patient head position.
2. Stable right middle cerebellar peduncle T2 hyperintense, 
presumably
demyelinating lesion.  New bilateral T2 hyperintensity in the 
central
midbrain.
3. Stable thinning of the corpus callosum.
4. Extensive motion artifact limits evaluation of spinal cord 
signal for focal
demyelinating lesions.  No clear evidence for focal lesions 
separate from
artifacts.
5. No evidence for intracranial or cervical contrast-enhancing 
lesions.
6. Mild spinal canal narrowing at C5-C6 and C6-C7.  Severe right 
C5-C6,
moderate to severe left C5-C6, and severe left C6-C7 neural 
foraminal
narrowing.
7. Multiple nodules in the partially visualized thyroid gland, 
up to 1.4 cm.
8. Dilatation of the intra glandular left submandibular ducts 
and of the
partially visualized extra glandular left submandibular duct.
 
RECOMMENDATION(S):
1. If clinically warranted, the left submandibular gland and 
duct could be
further assessed for sialoliths by CT.
2. No further evaluation is recommended for thyroid nodules 
smaller than 1.5
cm.  Since the thyroid is only partially visualized on this 
exam, and size of
the visualized nodules approaches 1.5 cm, ultrasound could be 
considered.
"Absent suspicious imaging features, unless there is additional 
clinical
concern, ___ College of Radiology guidelines do not 
recommend further
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under
age ___ or less than 1.5 cm in patients age ___ or ___. 
Suspicious findings
include: Abnormal lymph nodes (those displaying enlargement, 
calcification,
cystic components and/or increased enhancement) or invasion of 
local tissues
by the thyroid nodule."  ___, et al, "Managing Incidental 
Thyroid Nodules
Detected on Imaging: White Paper of the ACR Incidental Findings 
Committee". J
___ ___ 12:143-150.

Final Report
EXAMINATION:  MR ___ ANDW/O CONTRAST ___ MR SPINE
 
INDICATION:  ___ year old woman with MS and worsening weakness.// 
Please
determine if weakness is secondary to relapse vs progression vs 
pseduorelapse.
Please determine if weakness is secondary to relapse vs prog
 
TECHNIQUE:  Sagittal imaging was performed with T2, T1, and STIR 
technique,
followed by axial T2 imaging. This was followed by sagittal and 
axial T1
images obtained after the uneventful intravenous administration 
of 7 mL of
Gadavist  contrast agent.
 
COMPARISON:  No prior imaging of the thoracic spine.
 
FINDINGS: 
 
Diffusely atrophic cord.  Mild central T2 signal abnormality 
versus artifact
upper thoracic cord may be sequela of chronic demyelination. No 
enhancement.
 
There is mildly exaggerated kyphosis of the thoracic spine.  
Alignment is
otherwise unremarkable.  A T1 and T2 hyperintense lesion, which 
enhances
following administration of contrast in the anterior aspect of 
the T5
vertebral body is compatible with a hemangioma.  Otherwise, the 
marrow is
within normal limits.
 
There is no significant spinal canal or neural foraminal 
narrowing.
 
Bilateral thyroid nodules are incompletely evaluated.  Few 
benign simple
hepatic cysts.  Indeterminate 1.5 cm enhancing lesion right 
hepatic lobe was
better characterized on MRI ___.  Linear T2 
hyperintense lesion at
the right lung base likely represents atelectasis (series 7, 
image 15). 
Exophytic simple right renal cyst.  Small right pleural 
effusion.
 
IMPRESSION:
 
 
1. Significant diffuse cord atrophy, may be sequela of chronic 
demyelination. 
No focal lesions or cord enhancement.
2. Minimal degenerative changes.
3. Partially visualized thyroid nodules are incompletely imaged 
and
characterized.  If not previously performed recommend ultrasound 
for further
evaluation.
4. Indeterminate right hepatic lobe lesion, better evaluated on 
MRI ___

 
Brief Hospital Course:
# Fever & Leukocytosis
The patient presented with fever and leukocytosis to 20. On 
thorough ROS, she has no localizing symptoms, and her 
leukocytosis has resolved with conservative management. She 
reiterated that the only symptoms she was experiencing prior to 
___ was subacute to chronic fatigue. Infectious work-up was 
unrevealing.  Her leukocytosis recurred in setting of initiation 
of high-dose steroids, but was not accompanied by fever or any 
other concerning symptoms. Her PCP had obtained ___ Lyme Western 
Blot. This showed reactive 23 and 41 KD IgM. Only 66 KD IgG was 
positive.ID team was consulted at the request of the Neurology 
team, as the medication for MS that she takes is known to be 
immunosuppressive. Low suspicion for tick-borne disease, 
neuro-Lyme, or any other serious underlying infection. Suspect 
this was likely a viral illness of some sort, self-limited. ID 
team advised checking Hep B panel, Strongy Ab, and Quant-gold. 
Hep B panel was pan-negative. Strongy and Quant are pending at 
time of discharge.

# Acute on chronic weakness
# MS ___ vs true relapse
She was continued on her home medications for MS. ___ the 
Neurology consult team, in discussion with the patient's primary 
Neurologist, decided to treat with 3 days of high-dose steroids 
(___). She will need ongoing close Neuro follow-up as 
outpatient.  She was discharged to rehab. On outpatient 
ocrelizumab infusions, next due ___

# Lyme disease
Doxycycline was stopped on ___, after she completed a total 14 
day course of doxy for possible Lyme disease. As above, we had 
low suspicion for Lyme disease. Her tick-borne disease panel at 
___ returned negative.

# Thyroid nodules: partially/incompletely visualize on MRI 
___ on ___. Would advise non-urgent ultrasound (as 
outpatient) if not previously done. ___ TSH: wnl

# Palpitations: Atenolol was reduced to 12.5 mg BID given HR 
persistently in the ___

Transitional issues:
[ ] Strongyloides and Quant are pending at time of discharge.
[ ] needs Hep B vaccination series (start as outpatient, when 
not getting high dose steroids)
[ ] Would advise non-urgent ultrasound (as outpatient) if not 
previously done

Ms. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO BID 
2. Baclofen 10 mg PO QHS 
3. Multivitamins 1 TAB PO DAILY 
4. dalfampridine 10 mg oral BID 
5. biotin 100 mg/gram oral TID 
6. Calcium Carbonate 1500 mg PO BID 
7. Tamsulosin 0.4 mg PO QHS 
8. Ascorbic Acid ___ mg PO TID 
9. Vitamin D 4000 UNIT PO DAILY 
10. Vitamin E 400 UNIT PO DAILY 
11. Modafinil 100 mg PO DAILY 
12. Doxycycline Hyclate 100 mg PO Q12H 

 
Discharge Medications:
1.  Ramelteon 8 mg PO QHS 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth Nightly Disp 
#*30 Tablet Refills:*3 
2.  Atenolol 12.5 mg PO BID  
3.  Ascorbic Acid ___ mg PO TID  
4.  Baclofen 10 mg PO QHS  
5.  biotin 100 mg/gram oral TID  
6.  Calcium Carbonate 1500 mg PO BID  
7.  dalfampridine 10 mg oral BID  
8.  Modafinil 100 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Vitamin D 4000 UNIT PO DAILY  
12.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
# Fever
# Leukocytosis
# Weakness - possible MS flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital with fever, elevated white 
blood cell count, and increased weakness.  The fever and 
elevated white blood cell count, often a marker of inflammation, 
resolved without any specific intervention. Your weakness 
persisted. Imaging of your brain and spinal cord was not fully 
explanatory of the cause and an evaluation for infectious causes 
was also not revealing.  The Neurology team recommended treating 
this as a possible flare of MS, with high-dose steroids.  ___ 
received 3 days of high dose steroids (___).

Also, the ID team evaluated ___ and recommended stopping 
doxycycline on ___, because at that point ___ had received a 
full course of treatment (2 weeks) for possible Lyme disease.  
Your tick-borne illness panel that was performed at ___ 
___ returned negative for Lyme, Babesia, and Anaplasma.  We 
do not think it is likely that ___ had Lyme disease or any other 
tick-borne illness as the cause of your presenting symptoms.

It was a pleasure caring for ___ and we wish ___ the best.

Sincerely,
The ___ Medicine Team

 
Followup Instructions:
___